2196-11-07 06:11:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 EKG - At [**2196-11-6**] 09:01 PM
   Dopamine weaned off.  Stopped at 5AM.  Blood pressure and heart rate
   continue to increase.
   No complaints.  Hungry.  No cp, sob
   TELE: HR increasing, PVCs.
   Allergies:
   Ciprofloxacin
   Unknown;
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Penicillins
   Unknown;
   Nut Flavor
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2196-11-7**] 06:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36.2
C (97.1
   HR: 98 (70 - 98) bpm
   BP: 95/73(78) {86/48(57) - 122/76(82)} mmHg
   RR: 15 (11 - 20) insp/min
   SpO2: 94%
   Heart rhythm: A Flut (Atrial Flutter)
   Height: 69 Inch
             Total In:
                                                                  4,629 mL
                                                                    145 mL
   PO:
                                                                    300 mL
             TF:
   IVF:
                                                                    219 mL
                                                                    145 mL
   Blood products:
   Total out:
                                                                  3,110 mL
                                                                  1,590 mL
   Urine:
                                                                    860 mL
                                                                  1,590 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,519 mL
                                                                 -1,445 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///20/
   Physical Examination
   Gen: Elderly aged male in NAD. Oriented x 3. Mood, affect appropriate.
   HEENT: Sclera anicteric. PERRL, EOMI. No pallor or cyanosis of the oral
   mucosa.
   Neck: Supple with JVP of 9cm.
   CV: Regular rhythym, tachycardic, normal S1, S2. ?S3  No murmur
   Chest: No chest wall deformities, scoliosis or kyphosis. Resp were
   unlabored, no accessory muscle use. Crackles bilateral bases, mild
   wheezes at bases or rhonchi.
   Abd: Soft, NT, ND. No HSM or tenderness.
   Ext: 2+ pitting edema to ankles. DP pulses 1+.
   Skin: No ulcers, scars, or ecchymosis.
   Neuro: CN2-12 grossly intact. Strenth
   Labs / Radiology
   163 K/uL
   10.8 g/dL
   177 mg/dL
   2.6 mg/dL
   20 mEq/L
   4.6 mEq/L
   54 mg/dL
   105 mEq/L
   135 mEq/L
   30.9 %
   7.3 K/uL
        [image002.jpg]
                             [**2196-11-6**]  09:50 PM
                            [**2196-11-7**]  05:23 AM
   WBC
   9.5
   7.3
   Hct
   30.8
   30.9
   Plt
   186
   163
   Cr
   2.6
   Glucose
   177
   Other labs: PT / PTT / INR:25.5/39.4/2.5, Ca++:8.2 mg/dL, Mg++:1.8
   mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
   78 M with bipolar, a-flutter/fib, T2DM who presents s/p syncopal
   episode with bradycardia and hypotension.
   SYNCOPE/HYPOTENSION - Patient is unclear on what medications he is on,
   but reports taking diltiazem in spite of having been told to stop
   this.  He also reports feeling weak and lightheaded since discharge.
   Most likely etiology of his bradycardia and syncope is nodal [**Doctor Last Name 23**]
   overdose.  Other possibilities include vasovagal episode or
   hypoglycemia (although admission FS was 461), arrhythmia, and
   dehydration.  Seizure unlikely given story and cardiac medications.
   Ischemia unlikely, especially with negative enzymes.  Currently off
   dopamine gtt.
   - [**Month (only) 11**] restart beta-blocker slowly as needed for HR control.
   - Goal to ablate on this admission.  Will do TEE under sedation and
   discuss with EP regarding ablation.
   - Orthostatic vitals
   - PT consult
   - Monitor on telemetry
   ATRIAL FLUTTER - Patient was newly diagnosed with A-Fib/flutter on last
   admission ([**11-2**]).  He was being anticoagulated with plan for ablation 3
   weeks post discharge.  Another possibility is TEE/ablation, although
   reportedly TEE probe could not be passed.
   - Rate control with metoprolol as needed, will hold for now given
   dopamine requirement
   - Plan for ablation this week.
   - continue coumadin
   - barium swallow to evaluation for possible esophageal pathology
   (during last admission, could not pass TEE probe)
   PUMP - No evidence of CHF on recent echo.  Has trace crackles on exam
   and chronic appearing lower extremity edema.  S/P 3L IVF at [**Hospital 1097**]
   hosp.  Has mild O2 req and outside CXR shows volume o/l.
   - 40 mg IV lasix
   BIPOLAR DISORDER - Patient on Geodon as outpatient. Concern that may be
   contributing to his bradycardia (known side effect of the medication).
   Will continue to hold for now.
   - consider psych c/s in AM
   ACUTE ON CHRONIC RENAL FAILURE - Creatinine on discharge of 1.4, now
   2.6.  Likely related to decreased perfusion in setting of hypotension.
   Also may represent dehydration or ACEI overdose.  Did not improve with
   3L of IVF at [**Hospital1 1097**].
   - urine lytes and UA
   - consider renal ultrasound if not improving
   DIABETES TYPE 2:
   -Neurotin for neuropathy
   -HISS
   BPH - Hold terazosin given hypotension
   GOUT - Continue allopurinol
   .
   HYPERKALEMIA - resolved at OSH.  [**Month (only) 11**] reflect renal dysfunction, but
   does not appear to be severe.
   - continue to follow
   .
   # FEN: Diabetic/cardiac diet
   .
   # Access: PIVs
   .
   # PPx
   .
   # Code: Full
   .
   # Dispo: C/O to floor following TEE while awaiting ablation
           1. IV access: Peripheral line Order date: [**11-6**] @ 2135
   8. Heparin IV per Weight-Based Dosing Guidelines
   Order date: [**11-7**] @ 1120
   2. Acetaminophen 325-650 mg PO Q6H:PRN Pain  Order date: [**11-6**] @ 2245
   9. Insulin SC  (per Insulin Flowsheet)
         Sliding Scale Order date: [**11-6**] @ 2135
   3. Allopurinol 100 mg PO DAILY  Order date: [**11-6**] @ 2245
   10. Magnesium Sulfate 2 gm IV ONCE Duration: 1 Doses Order date: [**11-6**]
   @ 2321
   4. DOPamine 5-10 mcg/kg/min IV DRIP TITRATE TO MAP > 65   Order date:
   [**11-6**] @ 2135
   11. Midazolam 1 mg IV ONCE Duration: 1 Doses
   Under supervision of fellow  Order date: [**11-7**] @ 1202
   5. Fentanyl Citrate 50 mcg IV ONCE Duration: 1 Doses
   Under supervision of fellow  Order date: [**11-7**] @ 1202
   12. Pantoprazole 40 mg PO Q24H  Order date: [**11-6**] @ 2245
   6. Furosemide 40 mg IV ONCE Duration: 1 Doses Order date: [**11-7**] @ 1126
   13. Simvastatin 20 mg PO DAILY  Order date: [**11-6**] @ 2245
   7. Gabapentin 300 mg PO HS  Order date: [**11-6**] @ 2245
   14. Sodium Chloride 0.9% Flush 3 mL IV Q8H:PRN line flush
   Peripheral line: Flush with 3 mL Normal Saline every 8 hours and PRN.
   Order date: [**11-6**] @ 2135

2196-11-08 06:51:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   78 M with bipolar, a-flutter/fib, T2DM who presents s/p syncopal
   episode with bradycardia and hypotension, thought to be secondary to AV
   node blockade with BB and CCB.
   24 Hour Events:
   Barium Swallow
 normal
   TEE
 no vegetations
   Started on Hep drip, off coumadin
   Required multiple doses of Metoprolol for any effect on HR.
   Responded dramatically to IV lasix 40mg in AM.
   Allergies:
   Ciprofloxacin
   Unknown;
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Penicillins
   Unknown;
   Nut Flavor
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 850 units/hour
   Other ICU medications:
   Other medications:
   Flowsheet Data as of  [**2196-11-8**] 06:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.4
C (97.6
   HR: 128 (85 - 130) bpm
   BP: 118/91(98) {93/51(60) - 128/91(98)} mmHg
   RR: 17 (11 - 20) insp/min
   SpO2: 93%
   Heart rhythm: A Flut (Atrial Flutter)
   Height: 69 Inch
             Total In:
                                                                  1,687 mL
                                                                    431 mL
   PO:
                                                                  1,440 mL
                                                                    360 mL
   TF:
   IVF:
                                                                    247 mL
                                                                     71 mL
   Blood products:
   Total out:
                                                                  5,150 mL
                                                                  1,100 mL
   Urine:
                                                                  5,150 mL
                                                                  1,100 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -3,463 mL
                                                                   -669 mL
   Physical Examination
   Gen: Elderly aged male in NAD. Oriented x 3. Mood, affect appropriate.
   HEENT: Sclera anicteric. PERRL, EOMI. No pallor or cyanosis of the oral
   mucosa.
   Neck: Supple with JVP of 9cm.
   CV: Regular rhythym, tachycardic, normal S1, S2. ?S3  No murmur
   Chest: No chest wall deformities, scoliosis or kyphosis. Resp were
   unlabored, no accessory muscle use. Crackles bilateral bases, mild
   wheezes at bases or rhonchi.
   Abd: Soft, NT, ND. No HSM or tenderness.
   Ext: 2+ pitting edema to ankles. DP pulses 1+.
   Skin: No ulcers, scars, or ecchymosis.
   Neuro: CN2-12 grossly intact. Strenth
   Labs / Radiology
   167 K/uL
   11.5 g/dL
   105 mg/dL
   2.1 mg/dL
   23 mEq/L
   4.3 mEq/L
   42 mg/dL
   106 mEq/L
   140 mEq/L
   33.3 %
   6.3 K/uL
        [image002.jpg]
                             [**2196-11-6**]  09:50 PM
                            [**2196-11-7**]  05:23 AM
                            [**2196-11-7**]  04:38 PM
                            [**2196-11-8**]  04:04 AM
   WBC
   9.5
   7.3
   6.3
   Hct
   30.8
   30.9
   33.3
   Plt
   186
   163
   167
   Cr
   2.6
   2.2
   2.1
   2.1
   Glucose
   177
   164
   196
   105
   Other labs: PT / PTT / INR:24.5/85.7/2.4, Ca++:8.2 mg/dL, Mg++:2.1
   mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
   78 M with bipolar, a-flutter/fib, T2DM who presents s/p syncopal
   episode with bradycardia and hypotension.
   SYNCOPE/HYPOTENSION
 Secondary to AV node blockade by incorrect med
   regimen for Aflutter.
   - Currently off dopamine gtt.
   - Started BB slowly but did not respond until got 25 + 12 +25 of
   Metoprolol. Will change standing dose to 50mg [**Hospital1 **]>
   -  TEE neg for vegetations, plan to ablate once INR low enough. NPO
   today and d/w EP.
   ATRIAL FLUTTER - Patient was newly diagnosed with A-Fib/flutter on last
   admission ([**11-2**]).  He was being anticoagulated with plan for ablation 3
   weeks post discharge.  Another possibility is TEE/ablation, although
   reportedly TEE probe could not be passed.
   - Barium swallow and TEE normal, plan for ablation once INR low enough.
   - BB for rate control as needed.
   - Coumadin held, Heparin started for ablation
   - barium swallow to evaluation for possible esophageal pathology
   (during last admission, could not pass TEE probe)
   PUMP
 S/P 3L IVF at OSH, now very negative after 2 doses of IV Lasix
   40mg.  Cr stable so seems to have tolerated well.
   BIPOLAR DISORDER -  Restarted Geodon as etiology of bradycardia is
   likely AV node blockade.
   - Received PM dose and tolerated well.
   ACUTE ON CHRONIC RENAL FAILURE - Creatinine baseline 1.4, peaked at
   2.6, now 2.1.  Has not improved in last 24 hrs, ? because
   overdiuresing. Would favor allowing pt to balance himself out.
   DIABETES TYPE 2:
   -Neurotin for neuropathy
   -HISS
   BPH - Hold terazosin given hypotension
   GOUT - Continue allopurinol  at lower dose given renal failure
   .
   # FEN: Diabetic/cardiac diet
   .
   # Access: PIVs
   .
   # PPx : PPI, Hep drip
   .
   # Code: Full
   .
   # Dispo: called out to floor but no beds available
                        Active Medications [**Known lastname 2048**],[**Known firstname 2049**]
                     1. Metoprolol Tartrate 25 mg PO BID
   6. Pantoprazole 40 mg PO Q24H
   2. Heparin IV per Weight-Based Dosing Guidelines
   7. Simvastatin 20 mg PO DAILY
   3. Allopurinol 100 mg PO DAILY
   8. Insulin SC sliding scale
   4. Acetaminophen 325-650 mg PO Q6H:PRN
   9. Vitamin D 400 UNIT PO DAILY
   5. Gabapentin 300 mg PO HS
   110. Ziprasidone 20 mg PO QAM and 40mg QPM